US08207176B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methyl-N-(1-methylethyl)benzamide
To the compound 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one (600 mg, 1.422 mmol) in dioxane (15 mL) and water (5 mL) were added 1,1-dimethylethyl 3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (542 mg, 2.132 mol), potassium carbonate (590 mg, 4.26 mmol) and tetrakis(triphenylphosphine)-palladium(0) (82 mg, 0.071 mmol). The mixture was heated with microwave at 150° C. for 15 minutes. The mixture was filtered. Separation by HPLC with TFA afforded the crude title compound.

reactant | 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.422 mmol, 600 mg | ClC=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C20H22ClF2N5O
reactant | 1,1-dimethylethyl 3-fluoro-4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 2.132 mol, 542 mg | FC=1C=C(C(=O)OC(C)(C)C)C=C(C1C)B1OC(C(O1)(C)C)(C)C | C18H26BFO4
reactant | potassium carbonate | 4.26 mmol, 590 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.071 mmol, 82 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-5-fluoro-4-methyl-N-(1-methylethyl)benzamide | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC(C)C)C=C(C2C)F)CC | C31H35F3N6O2
